US07414138B2
a) 2-Cyano-{p-carboxy-phenyl}-acrylic acid 2-ethylhexyl ester
A 250 ml three necked reaction flask, equipped with a reflux condenser combined with a water separator and an oil bath with a magnetic stirrer was charged with 3.8 g (25 mmol) of 4-carboxy-benzaldehyde (Fluka), 6.8 g (33 mmol) of cyanacetic-acid-2-ethyl-hexylester, 0.3 g of bis-(2-hydroxypropyl)-amine and 0.25 g of p-toluene-sulfonic acid in 80 ml of toluene and 20 ml of dimethylformamide. After 22 hours under reflux the reaction mixture was diluted with toluene and washed with aqueous NH4Cl and NaCl solutions, dried with Na2SO4 and concentrated to yield 6.2 g (74%) of whire crystals. M.p. 159-162° C. W(CH2C2) 305 nm (E=811).

reactant | 4-carboxy-benzaldehyde | 25 mmol, 3.8 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | cyanacetic-acid-2-ethyl-hexylester | 33 mmol, 6.8 g | C(C)C(COC(CC#N)=O)CCCC | C11H19NO2
reactant | bis-(2-hydroxypropyl)-amine | 0.3 g | OC(CNCC(C)O)C | C6H15NO2
reactant | p-toluene-sulfonic acid | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Cyano-{p-carboxy-phenyl}-acrylic acid 2-ethylhexyl ester | C(C)C(COC(C(=CC1=CC=C(C=C1)C(=O)O)C#N)=O)CCCC | C19H23NO4
